US08729061B2
(2S,3S)-3-Amino-N-benzyl-2-hydroxyhexanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-2-aminopentan-1-ol in the first step (A1), and using (isocyanomethyl)benzene in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-2-aminopentan-1-ol | N[C@H](CO)CCC | C5H13NO
reactant | (isocyanomethyl)benzene | [N+](#[C-])CC1=CC=CC=C1 | C8H7N
product | (2S,3S)-3-Amino-N-benzyl-2-hydroxyhexanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NCC1=CC=CC=C1)O)CCC | InChI=1S/C13H20N2O2.2ClH/c1-2-6-11(14)12(16)13(17)15-9-10-7-4-3-5-8-10;;/h3-5,7-8,11-12,16H,2,6,9,14H2,1H3,(H,15,17);2*1H/t11-,12-;;/m0../s1
